US04962109
Magnesium turnings (1.9 g), a catalytic amount of iodine and dry tetrahydrofuran (50 cm3) were placed in a round-bottomed flask under an atmosphere of dry nitrogen. A portion of a solution of 5-bromo-2-(1,1-dimethylethyl)pyrimidine (15.2 g) in dry tetrahydrofuran (50 cm3) was added to the reaction vessel and the Grignard reaction was initiated by the addition of a small portion of methyl iodide, followed by heating the reaction contents to the reflux temperature. The remainder of the pyrimidine solution was added at such a rate so as to maintain reflux, and on completion of the addition and cessation of reaction, the so formed Grignard reagent was added to a solution of diethyl oxalate (20.4 g) in dry tetrahydrofuran, whilst the reaction temperature was maintained between -10° C. and -15° C. After the addition was complete, the reaction mixture was allowed to warm to the ambient temperature, at which point it was allowed to stir for 16 hours. Dilute aqueous hydrochloric acid was added to the reaction mixture which was then extracted into dichloromethane. The combined organic extracts were washed with water, and brine, and dried over anhydrous magnesium sulphate. Evaporation of the solvent under reduced pressure, and short-path distillation of the residue using a Kugelrohr apparatus gave ethyl 2-oxo-2-[2-(1,1-dimethylethyl)-pyrimidin-5-yl]-acetate (9.3 g).

reactant | Magnesium | 1.9 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 5-bromo-2-(1,1-dimethylethyl)pyrimidine | 15.2 g | BrC=1C=NC(=NC1)C(C)(C)C | C8H11BrN2
reactant | methyl iodide | CI | CH3I
reactant | pyrimidine | N1=CN=CC=C1 | C4H4N2
reactant | diethyl oxalate | 20.4 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 50 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 cm3 | O1CCCC1 | C4H8O
product | ethyl 2-oxo-2-[2-(1,1-dimethylethyl)-pyrimidin-5-yl]-acetate | 9.3 g | O=C(C(=O)OCC)C=1C=NC(=NC1)C(C)(C)C | C12H16N2O3
